US06288122B1
Bis(4-fluorophenyl)-3-fluorophenylmethanol (999 mg, 3.18 mmol) was added to a 20% solution of acetyl chloride in dichloromethane (10 mL) at rt. The resulting purple solution was stirred for 12 h after which the solvent was removed by evaporation. Toluene (20 mL) was added to the residue and then evaporated affording crude bis(4-fluorophenyl)-3-fluorophenylchloromethane which was used in the next step without purification.

reactant | Bis(4-fluorophenyl)-3-fluorophenylmethanol | 3.18 mmol, 999 mg | FC1=CC=C(C=C1)C(O)(C1=CC(=CC=C1)F)C1=CC=C(C=C1)F | C19H13F3O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | bis(4-fluorophenyl)-3-fluorophenylchloromethane | FC1=CC=C(C=C1)C(Cl)(C1=CC(=CC=C1)F)C1=CC=C(C=C1)F | C19H12ClF3
